US05482948
a) 4E-5-(3-Acetylaminophenyl)-5-(3-pyridyl)pent-4-enecarbonitrile
To a suspension of 25.5 g of 4-cyanobutyl-triphenylphosphonium bromide and 14 g of potassium tert.butoxide in 200 ml of tetrahydrofuran are added, at -40° C., 12 g of 3-acetylaminophenyl-3-pyridylketone. The mixture is stirred for 3 hours at ambient temperature and the reaction mixture is decomposed by the addition of 50 ml of ice water. The mixture is concentrated by evaporation, the residue is taken up in water and extracted with ethyl acetate. The organic phase is evaporated down and the residue is purified over a silica gel column with dichloromethane/ethanol=40:1. The product fraction is evaporated down and the residue is recrystallised from ethyl acetate/diisopropylether.

reactant | 4-cyanobutyl-triphenylphosphonium bromide | 25.5 g | [Br-].C(#N)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.butoxide | 14 g | CC(C)([O-])C.[K+]
reactant | 3-acetylaminophenyl-3-pyridylketone | 12 g | C(C)(=O)NC=1C=C(C=CC1)C1=NC=CC=C1C(=O)C=1C(=NC=CC1)C1=CC(=CC=C1)NC(C)=O | C27H22N4O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4E-5-(3-Acetylaminophenyl)-5-(3-pyridyl)pent-4-enecarbonitrile | C(C)(=O)NC=1C=C(C=CC1)\C(=C/CCCC#N)\C=1C=NC=CC1 | C19H19N3O
